US06734179B2
To a suspension of 0.15 g (0.42 mMol) 4-(2-amino-4-methoxy-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester in 5 ml dioxane 44 mg (1.0 mMol) NaH (dispersion in mineral oil 60%) were added and stirred for 1 h at room temperature. Then 0.174 ml (1.24 mMol) triethyl amine and 0.114 ml (1.0 mMol) morpholine-4-carbonyl chloride were added and stirred for 16 h at room temperature. After addition of 10 ml water the mixture was extracted three times with 15 ml ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated to dryness in vacuo. The residue was subjected to column chromatography (ethyl acetate) to yield 0.135 g (69%) 4-{4-methoxy-2-[(morpholine-4-carbonyl)-amino]-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a colorless foam. ES-MS m/e (%): 475 ([M+H]+, 100).

reactant | 4-(2-amino-4-methoxy-benzothiazol-7-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.42 mMol, 0.15 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)N)OC | C18H23N3O3S
reactant | dioxane | 1.0 mMol, 5 ml, 44 mg | O1CCOCC1 | C4H8O2
reactant | triethyl amine | 1.24 mMol, 0.174 ml | C(C)N(CC)CC | C6H15N
reactant | morpholine-4-carbonyl chloride | 1.0 mMol, 0.114 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | water | 10 ml | O | H2O
product | 4-{4-methoxy-2-[(morpholine-4-carbonyl)-amino]-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.135 g, 69% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)N2CCOCC2)OC | C23H30N4O5S
